US07256201B2
3) Synthetic Method J: Synthesis of 5-benzyloxy-2-(4-benzyloxyphenyl)isoindoline
To a stirred suspension containing LiAlH4 (0.133 g) in THF (10 mL) under nitrogen atmosphere was added 5-benzyloxy-2-(4-benzyloxyphenyl)isoindoline-1,3-dione (0.435 g) in THF (15 mL) dropwise. The reaction was stirred at room temperature for 30 min, poured into cold, saturated ammonium chloride (100 mL) and extracted with ethyl acetate (2×75 mL). The organic layer was washed with brine and dried over MgSO4. After evaporation of the solvent, the residue was dried under high vacuum yielding the title compound (0.4 g) as a brown solid. 1H NMR (DMSO-d6): 7.45-7.31 (m, 13H), 6.70 (d, 2H, J=8.5 Hz), 6.51 (d, 2H, J=8.5 Hz), 5.12 (m, 4H), 4.41 (m, 4H); MS: 408 (MH+).

reactant | LiAlH4 | 0.133 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-benzyloxy-2-(4-benzyloxyphenyl)isoindoline-1,3-dione | 0.435 g | C(C1=CC=CC=C1)OC=1C=C2C(N(C(C2=CC1)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C28H21NO4
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-benzyloxy-2-(4-benzyloxyphenyl)isoindoline | 0.4 g | C(C1=CC=CC=C1)OC=1C=C2CN(CC2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H25NO2
